* source LAB
X_U2         N00275 0 N00788 N00780 N00323 uA741
X_U3         0 N00315 N00885 N00943 N00293 uA741
R_R1         N00319 N00315  40k TC=0,0 
R_R2         N00323 N00319  4.7k TC=0,0 
R_R3         N00275 N00319  10k TC=0,0 
R_R4         N00275 N00293  6.8k TC=0,0 
C_C1         N00315 N00293  10n  TC=0,0 
D_D1         N00319 N004121 D1N750 
D_D2         0 N004121 D1N750 
V_V1         N00788 0 15Vdc
V_V2         0 N00780 15Vdc
V_V3         N00885 0 15Vdc
V_V4         0 N00943 15Vdc
