* source LAB_2
D_D1         N00530 N00538 D1N4002 
X_X1         0 N00538 N00461 N00579 N00762 N00538 N00530 N00465 555D PARAMS:
+  MAXFREQ=3E6
X_U1         N01976 N01670 N01868 N001303 N01983 uA741
V_V1         N00465 0 15Vdc
D_D2         N00538 N00534 D1N4002 
R_R3         0 N00461  8.2k TC=0,0 
R_R1         N00530 N00465  2.7k TC=0,0 
R_R2         N00534 N00530  56k TC=0,0 
C_C1         0 N00762  10n  TC=0,0 
C_C2         0 N00538  0.1u  TC=0,0 
R_Rup         N00579 N00465  10k TC=0,0 
R_R4         0 N01976  15k TC=0,0 
C_C3         0 N01670  0.1u  TC=0,0 
D_D3         N01755 N01670 D1N4002 
D_D4         N01670 N01759 D1N4002 
R_RA         N01983 N01755  18k TC=0,0 
R_RB         N01983 N01759  150k TC=0,0 
V_V2         0 N001303 15Vdc
V_V3         N01868 0 15Vdc
R_R7         N01983 N01976  15k TC=0,0 
R_R8         0 N03642  6.8k TC=0,0 
D_D5         N01983 N03642 D1N4002 
X_Q1         N00579 N03705 0 awb2n2222 PARAMS:                                 
+            
X_Q2         N04521 N03705 0 awb2n2222 PARAMS:                                 
+            
R_R9         N00579 N04698  10k TC=0,0 
X_U2         N04521 N04714 N04698 N04691 N04668 uA741
R_R10         N03642 N03705  8.2k TC=0,0 
C_C4         0 N04521  1u  TC=0,0 
R_R11         N04668 N04521  10k TC=0,0 
R_R12         N04668 0  6.8k TC=0,0 
V_V4         0 N04691 15Vdc
V_V5         N04698 0 15Vdc
R_R13         N04521 N00461  10k TC=0,0 
R_R14         N04714 0  10k TC=0,0 
R_R15         N04668 N04714  10k TC=0,0 
